US06939885B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(6-chloro-pyridine-3-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-Amino-5-chloro-phenyl)-(6-chloro-pyridin-3-yl)-methanone and 4-tert-butyl-benzenesulfonyl chloride and purified by HPLC. 1H NMR: δ 1.21 (s, 9H), 7.30 (d, J=2.4 Hz, 1H), 7.33 (d, J=6.6 Hz, 2H), 7.43 (d, J=8.0 Hz, 1H), 7.52 & 7.55 (dd, J=8.8 Hz, 2.8 Hz, 1H), 7.60 (d, J=7.0 Hz, 1H), 7.79 (m, 3H), 8.27 (d, J=2.0 Hz, 1H), 9.73 (s, 1H). MS: M/z 463.0 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-(6-chloro-pyridin-3-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)Cl | C12H8Cl2N2O
reactant | 4-tert-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-[4-chloro-2-(6-chloro-pyridine-3-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)Cl | C22H20Cl2N2O3S
